US05674891
A mixture of 2-bromo-6-tert-butylthiophenol (6.04 g, 22.7 mmol), K2CO3 (3.76 g, 27.2 mmol), Nal (0.34 g, 2.27 mmol), and 3-chloro-2-methylpropene (2.3 mL, 22.7 mmol) in acetone (125 mL) is heated at reflux for 3 h. The reaction is allowed to cool to 24° C. The solids are filtered and discarded, and the filtrate is evaporated to a biphasic oil. The upper light colored layer is separated, taken up in hexane (50 mL), and treated with SiO2 (5 g). Filtration and evaporation provides 2-bromo-6-tert-butylphenyl isobutenyl thioether as a yellow oil.

reactant | 2-bromo-6-tert-butylthiophenol | 22.7 mmol, 6.04 g | BrC1=C(C(=CC=C1)C(C)(C)C)S | C10H13BrS
reactant | K2CO3 | 27.2 mmol, 3.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 2.27 mmol, 0.34 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | 3-chloro-2-methylpropene | 22.7 mmol, 2.3 mL | ClCC(=C)C | C4H7Cl
solvent | acetone | 125 mL | CC(=O)C | C3H6O
product | 2-bromo-6-tert-butylphenyl isobutenyl thioether | C(=C(C)C)SC1=C(C=CC=C1C(C)(C)C)Br | C14H19BrS
